US04886877
Preparation of 3-benzoyl-2'-deoxy-5-fluorouridine
15 Grams of 2'-deoxy-5-fluoro uridine (FudR) was dissolved in 45 ml of dimethylacetamide. Thereto was added 9 ml of triethylamine. To the mixture being cooled with ice-water was added 8.6 g of benzoyl chloride and the whole mixture was stirred overnight. The reaction mixture was subjected to filtration. The resulting filtrate was subjected to evaporation to obtain the residue, and water was added to the residue. The aqueous solution was extracted with ethyl acetate, and the organic layer was dried with anhydrous sodium sulfate. The dried ethyl acetate solution was concentrated and the residue was recrystallized from ethanol to obtain the desired compound. The yield was 10.5 g. M.p. 126° to 127° C.

reactant | 2'-deoxy-5-fluoro uridine | FC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11FN2O5
reactant | triethylamine | 9 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 8.6 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dimethylacetamide | 45 ml | CC(=O)N(C)C | C4H9NO
product | 3-benzoyl-2'-deoxy-5-fluorouridine | C(C1=CC=CC=C1)(=O)N1C(N([C@H]2C[C@H](O)[C@@H](CO)O2)C=C(C1=O)F)=O | C16H15FN2O6
